US06465507B2
1-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one
A mixture of 5-fluoro-1,3-dihydro-indol-2-one (30.2 mg, 0.2 mmol), 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde (32.8 mg, 0.2 mmol) and 0.1 mL of piperidine in ethanol (1 mL) was heated in a sealed tube at 80° C. for 4 hours. The precipitate was collected by vacuum filtration, washed with cold ethanol and dried to give the title compound.

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.2 mmol, 30.2 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde | 0.2 mmol, 32.8 mg | O=C1NCCC=2C1=CNC2C=O | C8H8N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one | FC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=C2C(NCCC21)=O | C16H12FN3O2
